US09107413B2
Preparation of N-(4-dimethylaminophenyl)-S-methyl-2-{4-[1-(4-trifluoromethoxyphenyl)-1H-[1,2,4]-triazol-3-yl]-benzylidene}-hydrazine-carbothioamide (Compound 1C) (Synthesis Method D)
A solution containing (E)-N-(4-(dimethylamino)phenyl)-2-(4-(1-(4-(trifluoromethoxy)-phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide (150 mg, 0.285 mmol) and iodomethane (0.054 mL, 0.856 mmol) in EtOH (5 mL) was heated at 80° C. for 3 h before the solvent was removed under reduced pressure. The residue was purified via normal phase flash chromatography (gradient elution with hexanes/EtOAc) to afford the title compound as an orange foam (93 milligrams (mg), 60%): 1H NMR (400 MHz, DMSO-d6) δ 8.61 (s, 1H), 8.48 (s, 1H), 8.22 (d, J=8.24 Hz, 2H), 8.17 (s, 1H), 7.89 (d, J=8.24 Hz, 2H), 7.80 (d, J=8.28 Hz, 2H), 7.41 (d, J=8.28 Hz, 2H), 7.19 (d, J=8.24 Hz, 2H), 6.71 (d, J=8.24 Hz, 2H), 2.99 (s, 6H), 2.42 (s, 3H); EIMS m/z 540 (M+).

reactant | (E)-N-(4-(dimethylamino)phenyl)-2-(4-(1-(4-(trifluoromethoxy)-phenyl)-1H-1,2,4-triazol-3-yl)benzylidene)hydrazinecarbothioamide | 0.285 mmol, 150 mg | CN(C1=CC=C(C=C1)NC(=S)N/N=C/C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C25H22F3N7OS
reactant | iodomethane | 0.856 mmol, 0.054 mL | IC | CH3I
solvent | EtOH | 5 mL | CCO | C2H6O
product | N-(4-dimethylaminophenyl)-S-methyl-2-{4-[1-(4-trifluoromethoxyphenyl)-1H-[1,2,4]-triazol-3-yl]-benzylidene}-hydrazine-carbothioamide | 93 milligrams, 60% | CN(C1=CC=C(C=C1)NC(=SC)NN=CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C26H26F3N7OS
